US05786523
O-chloroaniline (50 g) was added in water (400 g) and acetic acid (200 g), followed by cooling to 15° C. Then, a solution of potassium cyanate (63.6 g) and water (300 g) was added dropwise at not more than 15° C. over 40 minutes. The mixture was heated to 30° C., filtered and then washed with cold water to obtain a white crystal. This crystal was recrystallized from a solution of ethanol (350 g) and water (100 g) to obtain 47.1 g of o-chlorophenylurea as a white needle crystal.

reactant | O-chloroaniline | 50 g | C1=CC=C(C(=C1)N)Cl | C6H6ClN
reactant | potassium cyanate | 63.6 g | [O-]C#N.[K+]
solvent | water | 400 g | O | H2O
solvent | acetic acid | 200 g | C(C)(=O)O | C2H4O2
solvent | water | 300 g | O | H2O
product | o-chlorophenylurea | 47.1 g | ClC1=C(C=CC=C1)NC(=O)N | C7H7ClN2O
